US06114532
c. 4-(5-amino-benzothiazol-2-yl)-methyl-benzonitrile
8.8 g (29.8 mmol) of 4-(5-nitro-benzothiazol-2-ylmethyl)-benzonitrile are dissolved in 300 ml pyridine, combined with 15.4 g sodium dithionite and 60 ml water at 50° C. and heated to 95° C. for 1 hour. The pyridine is distilled off, the residue is combined with ice water, the precipitated product is suction filtered and dried.

reactant | 4-(5-nitro-benzothiazol-2-ylmethyl)-benzonitrile | 29.8 mmol, 8.8 g | [N+](=O)([O-])C=1C=CC2=C(N=C(S2)CC2=CC=C(C#N)C=C2)C1 | C15H9N3O2S
reactant | sodium dithionite | 15.4 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | 60 ml | O | H2O
reactant | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 4-(5-amino-benzothiazol-2-yl)-methyl-benzonitrile | NC=1C=CC2=C(N=C(S2)C2=CC(=C(C#N)C=C2)C)C1 | C15H11N3S
